* Z:\mnt\spice-netlists\LT3905_DC1956A_TA01.asc
XU1 N006 N009 N007 N008 N004 OUT N001 OUT 0 IN IN IN N003 IN N002 0 LT3905
V1 IN 0 5
L1 IN N001 10µ
R1 N008 0 4.99K
R2 OUT N002 634K
R3 N002 0 15K
C1 OUT 0 220n
R4 N009 0 1Meg
R5 N007 0 9.09K
D1 0 N004 APD
G1 N004 0 N005 0 1m
V2 N005 0 PULSE(.001m 1 1m 1u 1u .5m 1m)
R6 N003 IN 100K
R7 IN N006 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model APD D(Is=10n Cjo=10p)
.tran 3m startup
* LT3905 - Boost DC/DC Converter with APD Current Monitor\nAdjustable APD Bias Supply\nInput: 2.7V to 12V       Output: 54V @ 1mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT3905.sub
.backanno
.end
