* Z:\mnt\spice-netlists\LT8614_DC2019A_TA03.asc
R1 N007 0 18.2K
C1 N002 0 1µ
V1 IN 0 12
L1 N004 OUT 2.2µ
C3 N003 N004 .1µ
C4 OUT 0 47µ
R2 OUT N006 1Meg
R3 N006 0 243K
C5 OUT N006 4.7p
C6 IN 0 10µ
XU1 OUT N002 N003 IN MP_01 0 MP_02 N004 MP_03 0 MP_04 MP_05 N001 IN N007 N005 0 0 NC_06 N006 LT8614
C7 IN 0 1µ
C8 N001 0 1µ
C2 N005 0 1n
Rload OUT 0 1.25
.tran 1m startup
* LT8614 - 42V, 4A Synchronous Step-Down Silent Switcher with 2.5µA Quiescent Current\nUltralow EMI, µPower Buck Converter\nInput: 5.8V to 42V     Output: 5V @ 4A, Fsw=2MHz
* Note:\n  A smaller SS capacitor is being used to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT8614.sub
.backanno
.end
