* Z:\mnt\spice-netlists\LT8640_DC2202A_TA05.asc
R1 N007 0 18.2K
C1 N001 0 1µ
V1 IN 0 12
L1 N004 OUT 1.5µ
C3 N002 N004 .1µ
C4 OUT 0 100µ
R2 OUT N006 1Meg
R3 N006 0 243K
C5 OUT N006 10p
C6 IN 0 10µ
C7 IN 0 1µ
C8 IN 0 1µ
C2 N005 0 1n
Rload OUT 0 5
R4 N003 OUT 100K
XU1 OUT N001 N002 IN MP_01 0 MP_02 N004 MP_03 0 MP_04 MP_05 IN IN N007 N005 0 0 N003 N006 LT8640
.tran 1m startup
* LT8640 - 42V, 5A Synchronous Step-Down Silent Switcher with 2.5µA Quiescent Current\n5V 2MHz µPower Ultralow EMI Step-Down Converter\nInput: 5.7V to 42V     Output: 5V @ 5A, Fsw=2MHz
* Note:\n  A smaller SS capacitor is being used to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8640.sub
.backanno
.end
