* Z:\mnt\spice-netlists\LT3667_DC1869A_TA01A.asc
XU1 N001 MP_01 IN N009 OUT1 OUT1 OUT3 N011 N004 N007 N006 N008 N010 OUT2 OUT1 N012 N013 N002 IN IN MP_02 MP_03 N005 N003 0 LT3667
R1 N009 0 174K
R4 OUT2 N010 340K
R5 N010 0 158K
C3 OUT2 0 4.7µ
R6 OUT3 N011 499K
R7 N011 0 158K
C4 OUT3 0 4.7µ
L1 N003 OUT1 22µ
D1 N005 N003 PMEG6010AED
R2 OUT1 N007 931K
R3 N007 0 294K
C5 N001 N003 0.22µ
C6 OUT1 N007 22p
C2 OUT1 0 22µ
Rload1 OUT1 0 50
Rload2 OUT2 0 25
Rload3 OUT3 0 33
R8 N012 0 1.5K
R9 N013 0 1.5K
C7 N012 0 47n
C8 N013 0 47n
R10 N002 OUT1 150K
R11 N004 OUT1 150K
R12 N006 OUT2 150K
R13 N008 OUT3 150K
C1 IN 0 2.2µ
V1 IN 0 12
C9 OUT1 0 1µ
C10 OUT1 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
* LT3667 - 40V 400mA Step-Down Switching Regulator with Dual Fault Protected LDOs\n40V Step-Down Regulator with Dual LDOs\nInput: 6V to 40V    Output: 5V @200mA* , 2.5V @ 100mA & 3.3V @ 100mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* (Fsw = 600kHz)
* 2.5V output\nUp to 200mA
* 5V output *
* 3.3V output\nUp to 200mA
* * Maximum total output current \nIOUT1+IOUT2+IOUT3 is up to 400mA.
.lib LT3667.sub
.backanno
.end
