* Z:\mnt\spice-netlists\LT3790_DC2132A_TA01A.asc
C1 N024 0 33n
C2 N027 0 10n
V1 IN 0 20
R1 IN N001 3m
R2 IN N005 499K
R3 N005 0 56.2K
R4 N002 N001 50
C3 IN N002 470n
C4 0 N004 4.7µ
R5 IN N007 499K
R6 N007 0 27.4K
R7 N025 0 147K
C5 N020 0 .1µ
M§Q1 N001 N010 N013 N013 RJK0651DPB
M§Q2 N013 N016 N018 N018 RJK0651DPB
L1 N013 N014 10µ
C6 N008 N013 .1µ
D1 N004 N008 BAT46WJ
C7 N006 N014 .1µ
D2 N004 N006 BAT46WJ
M§Q3 N003 N011 N014 N014 Si4840DY
M§Q4 N014 N021 N018 N018 Si4840DY
R8 N018 0 4m
R9 OUT N026 73.2K
R10 N026 0 3.83K
R11 N003 OUT 8m
C8 N003 0 4.7µ x2
C9 N003 0 220µ
R12 N004 N017 200K
R13 N004 N019 100K
R14 N020 N024 100K
XU1 N020 N024 N020 N019 N017 N020 N015 N012 N005 IN N002 N001 N004 N010 N008 N013 0 N016 N021 MP_01 N014 N006 MP_02 N011 N003 OUT N018 0 MP_03 0 N023 N019 N009 0 N025 N022 N026 N007 LT3790
C10 N001 0 1µ
C11 IN 0 47µ
R15 N022 N027 5.1K
Rload OUT 0 4.8
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* LT3790 - 60V Synchronous 4-Switch Buck-Boost Controller\n120W Buck-Boost Voltage Regulator\nInput: 12V to 57V     Output: 24V @ 5A, Fsw = 200kHz
.lib LT3790.sub
.backanno
.end
