* Z:\mnt\spice-netlists\LT3795_DC1827A_TA01A.asc
V1 IN 0 36
R2 IN N003 499K
R3 N003 N004 115K
C2 N009 0 10n
C3 N016 N019 6.8n
R4 N017 0 31.6K
C4 N018 0 .05µ
C5 N012 0 4.7µ
M§Q1 N002 N005 N008 N008 BSH114
R5 N008 0 15m
R6 OUT N010 620m
M§Q2 N013 N011 N010 N010 IRF9640
D1 N013 0 LXHL-BW02 N=25
R7 OUT N006 1Meg
R8 N006 0 13.3K
C6 OUT 0 2.2µ x4
L1 N001 N002 22µ
D2 N002 OUT PDS5100
R9 N019 0 10K
XU1 OUT N010 N011 0 N014 N007 N006 N016 N007 N007 N018 N017 N015 N007 NC_01 NC_02 MP_03 N008 N005 N012 MP_04 MP_05 IN N003 N004 N001 IN N009 LT3795
C1 N015 0 6.8n
C7 N014 0 .1µ
R1 N004 0 12.4K
R11 IN N001 15m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LT3795 - 110V LED Controller with Spread Spectrum Frequency Modulation\nShort-Circuit Robust Boost LED Driver with Spread Spectrum Frequency Modulation\nInput: 8V to 60V       Output: 87V LED @ 400mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT3795.sub
.backanno
.end
