* Z:\mnt\spice-netlists\LT8495_DC2205A_TA01A.asc
D1 N002 OUT MBRS1100
XU1 OUT MP_01 N005 MP_02 N004 N006 N010 N007 MP_03 N009 N003 IN N010 0 N008 N011 MP_04 IN MP_05 N001 LT8495
C1 OUT 0 47µ
C2 N004 0 1n
C3 N006 0 1n
C4 N007 0 47n
C5 N002 N001 2.2µ
R1 N009 0 169K
R4 N005 0 316K
R5 OUT N003 1Meg
L1 0 N002 15µ
L2 IN N001 15µ
V2 IN 0 12
R6 N003 N005 8.87K
C6 IN 0 10µ
C7 IN 0 2.2µ
C8 OUT 0 47µ
C9 OUT N003 4.7p
V1 N011 0 PULSE(0 2 10n 10n 10n 0.5m 1m)
R2 OUT N008 100K
R3 OUT N010 100K
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
K1 L1 L2 0.99
* LT8495 - SEPIC/Boost Converter with 2A, 70V Switch, 9µA Quiescent Current, POR and Watchdog Timer\n450kHz, 5V Output SEPIC Converter\nInput: 3V to 60V       Output: 5V @ 1A (load current will decrease if Vin < 12V)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LT8495.sub
.backanno
.end
