* Z:\mnt\spice-netlists\LT8602_DC1949A_TA03A.asc
XU1 N006 0 N004 N002 N007 N009 MP_01 MP_02 MP_03 OUT2 N008 N012 MP_04 IN N017 MP_05 OUT2 N008 MP_06 N021 N020 N001 IN N018 N011 N005 N015 N014 N019 N008 N016 NC_07 0 OUT2 MP_08 N013 IN MP_09 N003 N010 LT8602
R1 N019 0 28.7K
C1 N021 0 1000p
C2 N020 0 1000p
C3 N014 0 4.7µ
L1 N017 OUT4 1µ
R2 OUT4 N018 75K
R3 N018 0 150K
C4 OUT4 N018 22p
C5 OUT4 0 47µ
Rload4 OUT4 0 .8
L2 N013 OUT3 1µ
R5 OUT3 N015 187K
R6 N015 0 150K
C6 OUT3 N015 22p
C7 OUT3 0 47µ
Rload3 OUT3 0 1.2
L3 N009 OUT2 2.2µ
R8 OUT2 N011 464K
R9 N011 0 200K
C8 OUT2 N011 22p
C9 OUT2 0 47µ
Rload2 OUT2 0 3.3
C10 N007 N009 .1µ
L4 N004 OUT1 4.7µ
R11 OUT1 N005 806K
R12 N005 0 200K
C11 OUT1 N005 4.7p
C12 OUT1 0 47µ
Rload1 OUT1 0 1500
C13 N002 N004 .1µ
C14 OUT2 0 4.7µ x2
V1 IN 0 10
R7 0 N003 100K
R10 N006 OUT1 19.1K
R13 N010 OUT3 19.1K
R14 N012 OUT4 19.1K
R15 N008 OUT2 19.1K
C15 N016 0 22p
C16 IN 0 4.7µ x2
R4 IN N001 340K
R16 N001 0 100K
.tran 3m startup
* LT8602 - 42V Quad Monolithic Synchronous Step-Down Regulator\nAutomotive Quad Buck Regulator\nInput: 5.5V to 42V       Output: 5V @ 1.5A, 3.3V @ 2.5A, 1.8V @ 1.8A, 1.25V @ 1.8A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
.lib LT8602.sub
.backanno
.end
